US05430033
1-(2-(2-Bromophenyl)acetyl)-4-(2-methoxyphenyl)piperazine
A stirred solution of 2-bromophenylacetic acid (28.4 g, 132 mmol) in chloroform (200 ml) was treated dropwise over 10 rain with 1,1'-carbonyldiimidazole (21.4 g, 132 mmol) in chloroform (120 ml) under argon, after 1 h treated with 2-(methoxyphenyl)piperazine (24.4 g, 127 mmol) in chloroform (100 ml), after 18 h washed with 0.5 N-HC1 (2×200 ml), 0.5 N-NaOH (2×200 ml), and brine (200 ml), dried (MgSO4), and evaporated in vacuo. The oil was crystallised by trituration with cyclohexane (100 ml) to give the product (27.0 g), m.p. 95°-97°.

reactant | 2-bromophenylacetic acid | 132 mmol, 28.4 g | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 1,1'-carbonyldiimidazole | 132 mmol, 21.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(methoxyphenyl)piperazine | 127 mmol, 24.4 g | COC1=C(C=CC=C1)C1NCCNC1 | C11H16N2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-(2-Bromophenyl)acetyl)-4-(2-methoxyphenyl)piperazine | 27.0 g | BrC1=C(C=CC=C1)CC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C19H21BrN2O2
